US08349824B2
A mixture of ethyl 1-methyl-5-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylate (1.22 g, 3.05 mmol) and lithium hydroxide monohydrate (641 mg, 15.3 mmol) in methanol (30 ml) and water (5 ml) is stirred for 6 hours at 50° C. The solvent is evaporated, the residue diluted with water, acidified to pH=0 with 2N aqueous hydrochloric acid. The precipitated solid is collected by filtration, washed with ethyl acetate and dried affording 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (851 mg, 75%) as a light yellow solid. MS: m/z=369.9 (M−H+).

reactant | ethyl 1-methyl-5-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylate | 3.05 mmol, 1.22 g | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)N2CCOCC2)=O)C(=O)OCC | C18H21N7O4
reactant | lithium hydroxide monohydrate | 15.3 mmol, 641 mg | O.[OH-].[Li+]
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 851 mg, 75% | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)N2CCOCC2)=O)C(=O)O | C16H17N7O4
